US07825109B2
3-(methoxymethoxy)benzaldehyde
To a solution of 3-hydroxybenzaldehyde (5.0 g) in acetone (120 mL), potassium carbonate (8.5 g) and methoxymethyl chloride (4.0 g) were added, followed by stirring at 50° C. for 6 hours. The reaction mixture was concentrated and water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried and concentrated. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to thereby give the title compound (6.0 g) having the following physical properties.

reactant | 3-hydroxybenzaldehyde | 5.0 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxymethyl chloride | 4.0 g | COCCl | C2H5ClO
solvent | acetone | 120 mL | CC(=O)C | C3H6O
product | 3-(methoxymethoxy)benzaldehyde | 6.0 g | COCOC=1C=C(C=O)C=CC1 | C9H10O3
